US07572809B2
A solution of 30 mg of [6-(2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-1-isopropoxy-7-(2-methoxy-ethoxy)-isoquinolin-3-yl]-(5-methyl-1H-pyrazol-3-yl)-amine in 5 ml THF and 1 ml 1NHCl was stirred at room temperature for 3 h, and sent to Prep. LC-MS after neutralized with NaHCO3. 5 mg of 3-[1-Isopropoxy-7-(2-methoxy-ethoxy)-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinolin-6-yloxy]-propane-1,2-diol was produce as solid. LC-MS: m/e 447 (MH+).

reactant | [6-(2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-1-isopropoxy-7-(2-methoxy-ethoxy)-isoquinolin-3-yl]-(5-methyl-1H-pyrazol-3-yl)-amine | 30 mg | CC1(OCC(O1)COC=1C=C2C=C(N=C(C2=CC1OCCOC)OC(C)C)NC1=NNC(=C1)C)C | C25H34N4O6
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 3-[1-Isopropoxy-7-(2-methoxy-ethoxy)-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinolin-6-yloxy]-propane-1,2-diol | 5 mg | C(C)(C)OC1=NC(=CC2=CC(=C(C=C12)OCCOC)OCC(CO)O)NC1=NNC(=C1)C | C22H30N4O6
